US04002640
of 1-acetamido-2-nitro-4-thiocyanatobenzene in 70 ml. of n-propyl alcohol containing 4.8 g. potassium hydroxide is treated with 2.6 g. n-propylbromide. The mixture is stirred overnight at 15°-20° C., then poured into water, and extracted with chloroform. The dried extracts are stripped under vacuum and the residual red oil is dissolved in 25 ml. of acetic anhydride. A few drops of sulfuric acid are added and the mixture left at 20°-25° C for 1 hour. Sodium acetate is added and the solvent removed under vacuum. The residue is treated with water and the crude product filtered off. Recrystallization from methanol gives 1-acetamido-2-nitro-4-n-propylthiobenzene. (This intermediate may also be obtained directly by alkylation of 1-acetamido-2-nitro-4-thiocyanatobenzene with n-propylbromide in dimethylformamide in the presence of sodium borohydride.)

reactant | 1-acetamido-2-nitro-4-thiocyanatobenzene | C(C)(=O)NC1=C(C=C(C=C1)SC#N)[N+](=O)[O-] | C9H7N3O3S
reactant | n-propyl alcohol | 4.8 g | C(CC)O | C3H8O
reactant | potassium hydroxide | [OH-].[K+]
reactant | n-propylbromide | C(CC)Br | C3H7Br
solvent | water | O | H2O
product | 1-acetamido-2-nitro-4-n-propylthiobenzene | C(C)(=O)NC1=C(C=C(C=C1)SCCC)[N+](=O)[O-] | C11H14N2O3S
